US07148214B1
A mixture of 5,10-dihydro-imidazo[1,2-b]isoquinoline-7,8-diol, obtained according to the procedure described in Ex.No. A8c, (0.155 mol), phenyltrimethylammonium chloride (0.31 mol) and K2CO3 (0.68 mol) in DMF (400 ml) was stirred at 90° C. for 20 hours, cooled, poured out into H2O and filtered over dicalite. The filtrate was separated into its layers. The organic layer was washed with H2O, dried (MgSO4), filtered and the solvent was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2/CH3OH 100/0 to 97/3). The pure fractions were collected and the solvent was evaporated, yielding 3 g of 5,10-dihydro-7,8-dimethoxyimidazo[1,2-b]isoquinoline (8.4%) (interm. 22).

reactant | 5,10-dihydro-imidazo[1,2-b]isoquinoline-7,8-diol | N=1C=CN2CC=3C=C(C(=CC3CC21)O)O | C11H10N2O2
reactant | K2CO3 | 0.68 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
reactant | DMF | 400 ml | CN(C)C=O | C3H7NO
catalyst | phenyltrimethylammonium chloride | 0.155 mol | [Cl-].C1(=CC=CC=C1)[N+](C)(C)C
product | 5,10-dihydro-7,8-dimethoxyimidazo[1,2-b]isoquinoline | 3 g, 8.4% | COC=1C(=CC=2CC=3N(CC2C1)C=CN3)OC | C13H14N2O2
